US08420849B2
Methyl 2-(3,4-dichlorophenyl)-2-bromoacetate
N-bromosuccinimide (116 g, 1.4 equivalent amounts) was added to a 1,2-dichloroethane (320 mL) solution of methyl 2-(3,4-dichlorophenyl)acetate (106.8 g, 0.446 mol) at room temperature, followed by heating to 85° C. To this solution, a 1,2-dichloroethane (22.6 mL) solution of benzoyl peroxide (2.26 g, 2.0 mol %) was dropwise added dividedly 10 times every 10 minutes, followed by stirring at 85° C. for 3 hours. The reaction solution was cooled to room temperature, sequentially washed with a 2M sodium hydroxide aqueous solution, a mixed liquid of water-sodium thiosulfate aqueous solution (2:1, (v/v)), a saturated ammonium chloride aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to give the desired product as a brown oil (142 g, yield: 103%).

reactant | N-bromosuccinimide | 116 g, 1.4 equivalent | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 2-(3,4-dichlorophenyl)acetate | 0.446 mol, 106.8 g | ClC=1C=C(C=CC1Cl)CC(=O)OC | C9H8Cl2O2
catalyst | benzoyl peroxide | 2.26 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | 1,2-dichloroethane | 22.6 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 320 mL | ClCCCl | C2H4Cl2
product | Methyl 2-(3,4-dichlorophenyl)-2-bromoacetate | 142 g, yield: 103% | ClC=1C=C(C=CC1Cl)C(C(=O)OC)Br | C9H7BrCl2O2
